US06521643B1
To a suspension of N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-N′-benzoylthiourea (0.27 g) in methanol (5 ml) was added an aqueous sodium hydroxide solution (IN, 0.89 ml) dropwise. The mixture was stirred at ambient temperature for 4 hours, and the pH was adjusted to 8.0 with 1N hydrochloric acid. The mixture was diluted with water (50 ml) and extracted with dichloromethane-methanol (4:1) three times. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether, collected by filtration, washed with diisopropyl ether and dried under reduced pressure to give N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)thiourea (176 mg).

reactant | N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)-N′-benzoylthiourea | 0.27 g | COC1=CC(=NC=C1)C=1C=CC(=C(C1)NC(=S)NC(C1=CC=CC=C1)=O)C | C21H19N3O2S
reactant | sodium hydroxide | 0.89 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | N-(5-(4-methoxypyridin-2-yl)-2-methylphenyl)thiourea | 176 mg | COC1=CC(=NC=C1)C=1C=CC(=C(C1)NC(=S)N)C | C14H15N3OS
